US04198527
Freshly distilled ethyl trichloroacetate (164.8 g, 0.86 mmol) is added all at once to a cold (-50° ) stirred mixture of dry methyl 3-phenylthio-2-propenoate (155.4 g, 0.8 mol), dry olefin-free pentane (600 ml) and sodium methoxide (50 g, 0.92 mol). The cold mixture is allowed to stir under nitrogen at -50° for 4 hr and is then warmed slowly to RT over a period of 24 hr. Ether and water are added, and the organic layer is separated, washed with water, dried over calcium sulfate and solvent is removed under vacuum. The residue is purified by chromatography on silica gel, giving methyl 3-phenylthio-2,2-dichlorocyclopropanecarboxylate.

reactant | ethyl trichloroacetate | 0.86 mmol, 164.8 g | ClC(C(=O)OCC)(Cl)Cl | C4H5Cl3O2
reactant | methyl 3-phenylthio-2-propenoate | 0.8 mol, 155.4 g | C1(=CC=CC=C1)SC=CC(=O)OC | C10H10O2S
reactant | sodium methoxide | 0.92 mol, 50 g | C[O-].[Na+]
reactant | Ether | CCOCC | C4H10O
solvent | water | O | H2O
product | methyl 3-phenylthio-2,2-dichlorocyclopropanecarboxylate | C1(=CC=CC=C1)SC1C(C1C(=O)OC)(Cl)Cl | C11H10Cl2O2S
